US04806151
Laboratory scale preparation of n-propyl-4-chloro-3,5-dinitro-benzoate
Into a 1000 ml round-bottomed flask equipped with a stirrer, thermometer and Marcusson-condenser 180 g (3 moles) of n-propanol, and 380 g of benzene are weighed in, whereupon 493 g (2 moles) of 4-chloro-3,5-dinitro-benzoic acid and 20 g of concentrated sulfuric acid are added under stirring. The reaction mixture is heated to boiling on a water bath under stirring (86° C.) until no more water is distilled off. The water thus formed is collected in the Marcusson-condenser and removed if necessary. In the meantime the upper benzene/n-propanol phase is continuously re-introduced into the flask. The reaction having been completed the mixture is cooled to room temperature under stirring, the precipitated crystals are filtered off, washed with cold n-propanol and dried. Thus 490 g of the desired compound are obtained, yield 85%, purity 98%.

reactant | n-propanol | 3 moles, 180 g | C(CC)O | C3H8O
reactant | benzene | 380 g | C1=CC=CC=C1 | C6H6
reactant | 4-chloro-3,5-dinitro-benzoic acid | 2 moles, 493 g | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | n-propyl-4-chloro-3,5-dinitro-benzoate | 490 g, yield 85% | C(CC)OC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])=O | C10H9ClN2O6
